US06329367B1
6-Chloro-3-(1-methylcyclopentyl)amino-4H-thieno[3,2-e]-1,2,4-thiadiazine 1,1-dioxide
A mixture of 6-chloro-3-fluoro-4H-thieno[3,2-e]-1,2,4-thiadiazine 1,1-dioxide (0.60 g, 2.5 mmol), 1-methylcyclopentylamine hydrochloride (0.5 g, 3.7 mmol) and triethylamine (1.03 ml, 7.4 mmol) in ethanol (2.5 ml) was stirred for 16 h at 50° C. and then for 24 h at 65° C. in a sealed flask. The cooled mixture was concentrated in vacuo and the residue was triturated with water followed by adjustment to pH <2 with 1M hydrochloric acid. The crude product was isolated by filtration, dried and recrystallised from acetic acid to give 208 mg (26%) of the title compound; mp >300° C. (dec.); 1H-NMR (DMSO-d6): δ1.43 (s, 1H), 1,53-1.72 (m, 6H), 1.92-2.10 (m, 2H), 6.91 (br s, 1H), 7.10 (s, 1H), 10.52 (br s, 1H).

reactant | 6-chloro-3-fluoro-4H-thieno[3,2-e]-1,2,4-thiadiazine 1,1-dioxide | 2.5 mmol, 0.60 g | ClC1=CC=2NC(=NS(C2S1)(=O)=O)F | C5H2ClFN2O2S2
reactant | 1-methylcyclopentylamine hydrochloride | 3.7 mmol, 0.5 g | Cl.CC1(CCCC1)N
reactant | triethylamine | 7.4 mmol, 1.03 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | 2.5 ml | C(C)O | C2H6O
product | 6-Chloro-3-(1-methylcyclopentyl)amino-4H-thieno[3,2-e]-1,2,4-thiadiazine 1,1-dioxide | 208 mg, 26% | ClC1=CC=2NC(=NS(C2S1)(=O)=O)NC1(CCCC1)C | C11H14ClN3O2S2
